US05866568
Tetrakis(triphenylphosphine)palladium(0) (0.076 g) was added to a deoxygenated mixture of 4-nitrophenyl 2-chloropyridine-3-sulphonate (0.69 g), 4-isobutylphenylboronic acid (0.47 g), potassium fluoride (0.38 g), toluene (15 ml) and water (2.5 ml) and the mixture was stirred and heated under reflux for 24 hours. Water (50 ml) was added and the mixture was extracted with ethyl acetate (2×80 ml). The organic extracts were washed with saturated sodium chloride solution and then combined and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by gradient elution with dichloromethane/hexane (1:1-1:0 v/v) then dichloromethane/hexane/ethyl acetate (10:9:1 v/v) through a silica gel Mega Bond Elut column followed by recrystallisation from ethyl acetate/hexane to give 4-nitrophenyl 2-(4-isobutylphenyl)pyridine-3-sulphonate (0.50 g), m.p. 123°-124° C.; 1H NMR (d6 -DMSO): 0.9 (d, 6 H), 1.9 (m, 1 H), 2.55 (d, 2 H), 7.2-7.3 (m, 4 H), 7.5 (d, 2 H), 7.7 (dd, 1 H), 8.2 (d, 2 H), 8.4 (dd, 1 H), 9.0 (dd, 1 H); mass spectrum (+ve FAB, NBA/DMSO): 413 (M+H)+.

reactant | 4-nitrophenyl 2-chloropyridine-3-sulphonate | 0.69 g | ClC1=NC=CC=C1S(=O)(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H7ClN2O5S
reactant | 4-isobutylphenylboronic acid | 0.47 g | C(C(C)C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | potassium fluoride | 0.38 g | [F-].[K+]
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.076 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | 50 ml | O | H2O
solvent | water | 2.5 ml | O | H2O
product | 4-nitrophenyl 2-(4-isobutylphenyl)pyridine-3-sulphonate | 0.50 g | C(C(C)C)C1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C21H20N2O5S
